* sg13g2-opamp -- input-referred noise bench, design/opamp_core.sch (issue #13)
* Generated from
* sim/input-noise/testbench/tb_noise.spice.tmpl by
* sim/input-noise/run_noise_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Point: corner=mos_tt temp_c=-40 vdd_v=1.20
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* DUT netlist snapshot: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-13/sim/input-noise/netlist-snapshots/20260918-203850-90844d2/opamp_core.spice (frozen copy of
*   design/netlist/opamp_core.spice alongside this generated testbench, so
*   the exact DUT netlist this point ran against is reviewable later)
*
* ------------------------------------------------------------------ method
* design/netlist/opamp_core.spice is a FLAT xschem netlist (its
* "**.subckt"/"**.ends" lines are full-line SPICE comments, not an active
* subcircuit wrapper), so .include'ing it makes its own node names (vdd,
* vss, inn, inp, out, ibias, plus the internal d1/d2/tail nodes) live
* directly at this testbench's top level -- same as
* sim/open-loop-ac/testbench/tb_openloop_ac.spice.tmpl. No "X..."
* instantiation is needed or used.
*
* CONFIGURATION: unity-gain closed loop, NOT the open-loop Lbreak trick.
* Vfb (a 0 V, noiseless, ideal source used as a wire + current probe) ties
* inn to out, making the DUT a real voltage follower: the DC operating
* point is set by real feedback (no ideal-inductor trick needed), and the
* noise gain from the amplifier's own input to out is 1 across the whole
* measurement band. ngspice's `noise` analysis divides the output noise by
* the measured Vinp->out transfer function, so with a noise gain of 1 its
* `inoise_spectrum` IS the amplifier's input-referred noise density
* directly.
*
* Why not the open-loop Lbreak = 1e18 H configuration sim/open-loop-ac/
* uses: it is correct for `ac`, but prototyping this bench (see README.md
* "Why closed loop") showed it produces a NON-PHYSICAL input-referred
* noise spectrum -- a 1/f slope in *amplitude* (10x per decade, i.e.
* S_v proportional to 1/f^2) where both theory and a single-device probe
* of this same PDK's sg13_lv_nmos give a textbook 1/f power slope
* (3.16x per decade in amplitude). The unity-gain configuration below
* reproduces the textbook shape exactly, so it is the configuration this
* bench claims numbers from. The issue's own scope permits either ("...or
* a closed-loop configuration if that better suits `.noise` analysis").
*
* MEASUREMENT BAND (see README.md "Choosing the band" for the full
* rationale and the sibling-repo precedent):
*   - integrated: 100 Hz - 1 MHz, reported as V_ni,rms (uVrms)
*   - spot density: 100 Hz, 1 kHz, 10 kHz, 100 kHz, 1 MHz (nV/sqrt(Hz))
* `dec 20` starting at exactly 100 Hz puts those five spot frequencies on
* indices 0/20/40/60/80 of the swept vector; run_noise_sweep.sh re-derives
* each spot frequency from the written CSV and asserts it, rather than
* trusting the index arithmetic silently.
*
* UNITS (empirically pinned, not assumed): in ngspice-46,
* `inoise_spectrum`/`onoise_spectrum` are densities in V/sqrt(Hz) and
* `inoise_total`/`onoise_total` are already-square-rooted RMS volts over
* the swept band. testbench/tb_noise_units_check.spice re-verifies both
* against a closed-form 4kTR resistor reference on every sweep run --
* see README.md "Units check".
*
* The second, wider `noise` sweep (1 Hz - 100 MHz, dec 10) is
* REFERENCE-ONLY curve evidence (flicker corner, thermal floor, and the
* out-of-band rise above the closed-loop bandwidth where input-referral
* stops being meaningful). No recorded claim is read from it.
*
* The `ac` sweep is a per-point guard, not a result: it re-measures the
* closed-loop gain at both band edges so run_noise_sweep.sh can assert the
* noise gain really is ~1 across the claimed band at THIS corner (a point
* whose unity-gain bandwidth had collapsed below 1 MHz would otherwise
* report an inflated input-referred number at the band top).
*
* ibias: a single external ideal current-source bias pin, per
* design/opamp_sizing.md "Bias scope" -- 10 uA sunk from vdd through the
* ibias node, exactly as sim/open-loop-ac/ does. An ideal current source
* is noiseless in ngspice, so every noise volt measured here originates in
* the DUT's own devices; the real bias generator's noise contribution is
* out of scope for this bench (no bias generator is designed yet).

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib" cap_typ
.include "/Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-13/sim/input-noise/netlist-snapshots/20260918-203850-90844d2/opamp_core.spice"

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.options temp=-40 tnom=27

Vdd vdd 0 dc 1.20
Vss vss 0 dc 0
Iibias vdd ibias dc 10u
Vinp inp 0 dc 0.6 ac 1
Vfb inn out dc 0
Cload out vss 2e-12

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

op
echo "OP_VOUT $&v(out)"
echo "OP_VD1 $&v(d1)"
echo "OP_VD2 $&v(d2)"
echo "OP_VTAIL $&v(tail)"
echo "OP_VIBIAS $&v(ibias)"
let ivdd_op = -i(vdd)
echo "OP_IVDD $&ivdd_op"

* --- claimed band: 100 Hz - 1 MHz, dec 20 (81 points) ------------------
noise v(out) Vinp dec 20 100 1meg
setplot noise1
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-13/sim/input-noise/corners/20260918-203850-90844d2/mos_tt_-40C_1.20V_noise.csv inoise_spectrum onoise_spectrum
setplot noise2
let vni_int = inoise_total
let vno_int = onoise_total
echo "NOISE_INOISE_TOTAL $&vni_int"
echo "NOISE_ONOISE_TOTAL $&vno_int"

* --- reference-only wide curve: 1 Hz - 100 MHz, dec 10 -----------------
noise v(out) Vinp dec 10 1 100meg
setplot noise3
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-13/sim/input-noise/corners/20260918-203850-90844d2/mos_tt_-40C_1.20V_noise_wide.csv inoise_spectrum onoise_spectrum

* --- per-point noise-gain guard at both band edges ---------------------
setplot const
ac dec 20 100 1meg
let clgain = mag(v(out))
let clgain_lo = clgain[0]
let clgain_hi = clgain[80]
echo "AC_CLGAIN_100HZ $&clgain_lo"
echo "AC_CLGAIN_1MHZ $&clgain_hi"
.endc
.end
